US09382197B2
To a 250-mL round-bottom flask was added 4-formylbenzoic acid (5.0 g, 33 mmol), di-tert-butyldicarbonate (14.54 g, 66.6 mmol), N,N-dimethylaminopyridine (0.814 g, 6.66 mmol), and THF (100 mL). The mixture was stirred at rt for 16 h. The solvent was then removed to give a solid. To the residue was added EtOAc (150 mL), sat. NaHCO3 solution (25 mL), and water (25 mL). After separation, the aqueous layer was extracted with EtOAc (2×100 mL). The combined organic phases were washed with brine (50 mL), dried (MgSO4), and concentrated. Purification via flash chromatography (hexanes to 10% EtOAc-hexanes) afforded tert-butyl 4-formylbenzoate (1.90 g, 28%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ10.10 (s, 1H), 8.14 (d, J=8.3 Hz, 2H), 7.93 (d, J=8.5 Hz, 2H), 1.61 (s, 9H).

reactant | 4-formylbenzoic acid | 33 mmol, 5.0 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | di-tert-butyldicarbonate | 66.6 mmol, 14.54 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | water | 25 mL | O | H2O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 4-formylbenzoate | 1.90 g, 28% | C(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H14O3
